US06727264B1
N-(3-{1-[3-(1H-BENZO[G]INDOL-3-YL)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure H and Scheme S using N-(3-{1-[4-(1,3-dioxolan-2-yl)butyl]-4-piperidinyl}phenyl)-2-methylpropanamide and 1-(1-naphthyl)hydrazine hydrochloride: ESMS 454.2 m/e: (M+H)+.

reactant | N-(3-{1-[4-(1,3-dioxolan-2-yl)butyl]-4-piperidinyl}phenyl)-2-methylpropanamide | O1C(OCC1)CCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C22H34N2O3
reactant | 1-(1-naphthyl)hydrazine hydrochloride | Cl.C1(=CC=CC2=CC=CC=C12)NN
product | N-(3-{1-[3-(1H-BENZO[G]INDOL-3-YL)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | N1C=C(C2=CC=C3C(=C12)C=CC=C3)CCCN3CCC(CC3)C=3C=C(C=CC3)NC(C(C)C)=O | C30H35N3O
